US08486967B2
c) N-(3,3-Difluoro-1-(6-methylpyrimidin-4-yl)piperidin-4-yl)-8-(2,3,4-trifluorophenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine
A solution of N-(3,3-difluoropiperidin-4-yl)-8-(2,3,4-trifluorophenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine (75 mg, 196 μmol), 4-chloro-6-methylpyrimidine (27.7 mg, 215 μmol) and N,N-diisopropylethylamine (37.9 mg, 49.9 μL, 293 μmol) in dioxane (4 mL) was heated to 150° C. in the microwave for 1 hour. Further 4-chloro-6-methylpyrimidine (27.7 mg, 215 μmol) and N,N-diisopropylethylamine (37.9 mg, 49.9 μL, 293 μmol) were added and heated to 150° C. in the microwave for another hour. Further 4-chloro-6-methylpyrimidine (27.7 mg, 215 μmol) and N,N-diisopropylethylamine (37.9 mg, 49.9 μL, 293 μmol) were added and heated to 110° C. for 12 hours. The crude material was directly purified by flash chromatography (silica gel, 70 g, 0% to 15% MeOH/NH4OH (9:1) in dichloromethane). The title compound was obtained as light yellow foam (25 mg, 22%). MS ISP (m/e): 476.1 (100) [(M+H)+].

reactant | N-(3,3-difluoropiperidin-4-yl)-8-(2,3,4-trifluorophenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine | 196 μmol, 75 mg | FC1(CNCCC1NC1=NN2C(C(=CC=C2)C2=C(C(=C(C=C2)F)F)F)=N1)F | C17H14F5N5
reactant | 4-chloro-6-methylpyrimidine | 215 μmol, 27.7 mg | ClC1=NC=NC(=C1)C | C5H5ClN2
reactant | N,N-diisopropylethylamine | 293 μmol, 49.9 μL, 37.9 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-chloro-6-methylpyrimidine | 215 μmol, 27.7 mg | ClC1=NC=NC(=C1)C | C5H5ClN2
reactant | N,N-diisopropylethylamine | 293 μmol, 49.9 μL, 37.9 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-chloro-6-methylpyrimidine | 215 μmol, 27.7 mg | ClC1=NC=NC(=C1)C | C5H5ClN2
reactant | N,N-diisopropylethylamine | 293 μmol, 49.9 μL, 37.9 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | N-(3,3-Difluoro-1-(6-methylpyrimidin-4-yl)piperidin-4-yl)-8-(2,3,4-trifluorophenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine | FC1(CN(CCC1NC1=NN2C(C(=CC=C2)C2=C(C(=C(C=C2)F)F)F)=N1)C1=NC=NC(=C1)C)F | C22H18F5N7
